### PR TITLE
Add more properties to Data.Tree.Binary.Properties

### PR DESCRIPTION
**Pull request by Taneb**
I was looking for these when working on `categories-examples`.

### CODE REVIEW

File: src/Data/Tree/Binary/Properties.agda [hunk 1]
```diff
@@ -48,3 +51,14 @@ private
 map-id : ∀ (t : Tree N L) → map id id t ≡ t
 map-id (leaf x)     = refl
 map-id (node l v r) = cong₂ (flip node v) (map-id l) (map-id r)
+
+map-compose : ∀ {f₁ : N₁ → N₂} {f₂ : N → N₁} {g₁ : L₁ → L₂} {g₂ : L → L₁} (t : Tree N L) → map (f₁ ∘ f₂) (g₁ ∘ g₂) t ≡ map f₁ g₁ (map f₂ g₂ t)
+map-compose (leaf x) = refl
+map-compose (node l v r) = cong₂ (λ l r → node l _ r) (map-compose l) (map-compose r)
+
+map-cong : ∀ {f₁ f₂ : N → N₁} {g₁ g₂ : L → L₁} → (∀ n → f₁ n ≡ f₂ n) → (∀ l → g₁ l ≡ g₂ l) → (t : Tree N L) → map f₁ g₁ t ≡ map f₂ g₂ t
```
Comment (gallais) [inline src/Data/Tree/Binary/Properties.agda:59]: If you look at [`Data.List.Properties`](http://agda.github.io/agda-stdlib/Data.List.Properties.html#3229),
we typically use `_≗_` in the definition of `map-cong`.

File: src/Data/Tree/Binary/Properties.agda [hunk 2]
```diff
@@ -48,3 +51,14 @@ private
 map-id : ∀ (t : Tree N L) → map id id t ≡ t
 map-id (leaf x)     = refl
 map-id (node l v r) = cong₂ (flip node v) (map-id l) (map-id r)
+
+map-compose : ∀ {f₁ : N₁ → N₂} {f₂ : N → N₁} {g₁ : L₁ → L₂} {g₂ : L → L₁} (t : Tree N L) → map (f₁ ∘ f₂) (g₁ ∘ g₂) t ≡ map f₁ g₁ (map f₂ g₂ t)
```
Comment (gallais) [inline src/Data/Tree/Binary/Properties.agda:55]: Could you introduce a line break in the type? I'd leave all of the implicit arguments
on the first line & then have the main statement on a separate line.

Cf. [the style guide](https://github.com/agda/agda-stdlib/blob/master/notes/style-guide.md#file-structure) for how we typically indent things.

File: src/Data/Tree/Binary/Properties.agda (hunk 1 above)
Comment (Taneb) [reply src/Data/Tree/Binary/Properties.agda:59]: Yes. I avoided this because other things in `Data.Tree.Binary.Properties` wrote it this way (`map-id`). Would it be better to convert all of them to this style or just the two I've added?

File: CHANGELOG.md [hunk 3]
```diff
@@ -516,6 +516,13 @@ Other minor additions
   index-∈-lookup : (i : Fin n) (xs : Vec A n) → Any.index (∈-lookup i xs) ≡ i
   ```
 
+* Added new proofs to `Data.Tree.Binary.Properties`:
+  ```agda
+  map-compose : ∀ {f₁ : N₁ → N₂} {f₂ : N → N₁} {g₁ : L₁ → L₂} {g₂ : L → L₁} →
```
Comment (gallais) [inline CHANGELOG.md:521]: We typically remove all of the implicit arguments in the CHANGELOG
to focus on the interesting part of the type.

File: src/Data/Tree/Binary/Properties.agda [hunk 4]
```diff
@@ -48,3 +51,16 @@ private
...
 map-id (node l v r) = cong₂ (flip node v) (map-id l) (map-id r)
+
+map-compose : ∀ {f₁ : N₁ → N₂} {f₂ : N → N₁} {g₁ : L₁ → L₂} {g₂ : L → L₁} →
+              map (f₁ ∘ f₂) (g₁ ∘ g₂) ≗ map f₁ g₁ ∘ map f₂ g₂
+map-compose (leaf x) = refl
+map-compose (node l v r) = cong₂ (λ l r → node l _ r) (map-compose l) (map-compose r)
+
+map-cong : ∀ {f₁ f₂ : N → N₁} {g₁ g₂ : L → L₁} → f₁ ≗ f₂ → g₁ ≗ g₂ → map f₁ g₁ ≗ map f₂ g₂
+map-cong p q (leaf x) = cong leaf (q x)
+map-cong p q (node l v r) = recombine (map-cong p q l) (p v) (map-cong p q r)
```
Comment (gallais) [inline src/Data/Tree/Binary/Properties.agda:62]: `recombine` is [`congₙ`](https://agda.github.io/agda-stdlib/Function.Nary.NonDependent.html#2015) applied to `node`.

Comment (Taneb) [reply src/Data/Tree/Binary/Properties.agda]: Nice, I didn't know about this function!

**Comment by MatthewDaggitt** [comment]
Looks good to me as well, thanks for the PR! I'll leave it up for a few more days in case anyone else has any comments then I'll merge it in.
